US06743791B2
4-(3-Dimethylamino-2-methoxymethyl-acryloyl)-1H-pyrrole-2-carboxylic Acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide
4-(3-Methoxy-propionyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide was treated with an excess of Bredereck's reagent in THF at room temperature to 50° C. for 3 days. The solvent was removed under reduced pressure and the concentrate was used directly in the next step. HPLC Method B, Rt=5.0 minutes “broad peak”.

reactant | 4-(3-Methoxy-propionyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C(CCOC)=O | C17H20N2O4
reactant | Bredereck's reagent | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3-Dimethylamino-2-methoxymethyl-acryloyl)-1H-pyrrole-2-carboxylic Acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C(C(=CN(C)C)COC)=O | C20H25N3O4
